US04322353
Treatment of 1-benzyloxy-4-(1,3-dithian-2-yl)-butan-2-one (89.8 g) in benzene (3.5 l) with distilled ethylene glycol (220 ml) and p-toluenesulfonic acid (11.7 g) at reflux temperature in a Dean-Stark apparatus for 18 hours gives a mixture which is concentrated to 500 ml in vacuo and allowed to stir for one hour. After the addition of sodium carbonate (10 g), the mixture is then partitioned between ether (300 ml) and brine (300 ml). The aqueous phase is extracted with ether (600 ml) and the combined extracts are washed with 0.05% sodium carbonate (1.2 l), filtered through phase-separating paper and dried (sodium sulfate). The solvent is removed in vacuo to give a residue (102.15 g; 99%). A 200 mg portion of the residue is purified on Quantagram PQ1F plates (chloroform) to give 1-benzyloxy-2,2-ethylenedioxy-4-(1,3-dithian-2-yl)-butane (180 mg);

reactant | 1-benzyloxy-4-(1,3-dithian-2-yl)-butan-2-one | 89.8 g | C(C1=CC=CC=C1)OCC(CCC1SCCCS1)=O | C15H20O2S2
reactant | ethylene glycol | 220 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 11.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 3.5 l | C1=CC=CC=C1 | C6H6
product | 1-benzyloxy-2,2-ethylenedioxy-4-(1,3-dithian-2-yl)-butane | 180 mg | C(C1=CC=CC=C1)OCC1(CCC2SCCCS2)OCCO1 | C17H24O3S2
